US07601711B2
[5-(4-Isopropyl-piperazine-1-carbonyl)-1H-indol-2-yl]-(4-trifluoromethyl-piperidin-1-yl)-methanone
The title compound was synthesized in analogy to example 1, from 5-(4-isopropyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid 1:1 hydrochloride, O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (commercially available), 4-trifluoromethylpiperidine (commercially available) and N,N-diisopropylethylamine in N,N-dimethylformamide to give the desired product after purification by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile/water/formic acid.

reactant | 5-(4-isopropyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid | C(C)(C)N1CCN(CC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)O | C17H21N3O3
reactant | hydrochloride | Cl | ClH
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-trifluoromethylpiperidine | FC(C1CCNCC1)(F)F | C6H10F3N
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [5-(4-Isopropyl-piperazine-1-carbonyl)-1H-indol-2-yl]-(4-trifluoromethyl-piperidin-1-yl)-methanone | C(C)(C)N1CCN(CC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)N1CCC(CC1)C(F)(F)F | C23H29F3N4O2
